US05366987
(a) N-hydroxy-tridecaneimidamide
Hydroxylamine hydrochloride (0.90 g, 12.9 mmol) was added to a solution of triethylamine (1.79 mL, 12.9 mmol) in 50% ethanol/water (4 mL) and the mixture was stirred for 2 minutes. Tridecane nitrile (2.02 g, 10.4 mmol) in ethanol (10 mL) was added and the mixture refluxed for 2 hours, allowed to cool, and poured into water (50 mL). The precipitate was collected, stirred with hexanes, and filtered to yield a white solid (0.63 g, 26%).

reactant | Hydroxylamine hydrochloride | 12.9 mmol, 0.90 g | Cl.NO
reactant | triethylamine | 12.9 mmol, 1.79 mL | C(C)N(CC)CC | C6H15N
reactant | Tridecane nitrile | 10.4 mmol, 2.02 g | C(CCCCCCCCCCCC)#N | C13H25N
reactant | water | 50 mL | O | H2O
solvent | ethanol water | 4 mL | C(C)O.O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | N-hydroxy-tridecaneimidamide | 0.63 g, 26% | ONC(CCCCCCCCCCCC)=N | C13H28N2O
